* source FILTR_SR
C_C1         0 N01199  1u  
C_C2         0 N01199  1u  
R_R6         0 N02512  1k  
V_V1         N01199 0 20Vdc
C_C3         0 OUT  1u  
R_R5         N02512 OUT  7.8k  
C_1n         0 OUT  1u  
X_U5         N01199 N02512 OUT LM317
